US08835449B2
1-(2-Methoxyethyl)-6-(pyridin-2-yl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one
A mixture of crude 1-(2-methoxyethyl)-2-(methylthio)-6-(pyridin-2-yl)pyrimidin-4(1H)-one (100 mg, 0.36 mmol), ammonium sulfide solution (0.2 mL, 0.64 mmol) and pyridine (0.2 mL) was stirred in dioxane (2 mL) at 70° C. for 4 hours. The reaction mixture was diluted with water (10 mL), basified with 2M NaOH and washed with dichloromethane (3×10 mL). The aqueous layer was acidified to pH 6 with 2M HCl and extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with water (3×10 mL), brine (3×10 mL), dried over MgSO4 and concentrated in vacuo. The crude material was purified by mass directed automatic purification using an acidic method to give the product as a brown solid (3 mg, 3%).

reactant | 1-(2-methoxyethyl)-2-(methylthio)-6-(pyridin-2-yl)pyrimidin-4(1H)-one | 0.36 mmol, 100 mg | COCCN1C(=NC(C=C1C1=NC=CC=C1)=O)SC | C13H15N3O2S
reactant | ammonium sulfide | 0.64 mmol, 0.2 mL | [NH4+]=S
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | NaOH | 2M | [OH-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 1-(2-Methoxyethyl)-6-(pyridin-2-yl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 3 mg, 3% | COCCN1C(NC(C=C1C1=NC=CC=C1)=O)=S | C12H13N3O2S
